US07557114B2
(a) 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a solution of 17.1 mmol 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A10(a)) in 50 ml DMF were added 19.3 mmol bis(pinacolato)diboron, 56.0 mmol potassium acetate and 0.57 mmol 1,1-bis(diphenylphosphino)ferrocene dichloro palladium (II) dichloromethane adduct. The mixture was stirred at 70° C. for 17 hours. The solvent was removed in vacuo and the residue was stirred in 50 ml dichloromethane. The mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: heptane/ethyl acetate) to yield the title compound as a white solid (yield 76%).

reactant | 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 17.1 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | bis(pinacolato)diboron | 19.3 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 56.0 mmol | C(C)(=O)[O-].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | yield 76% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
